US08975400B2
2-fluoro-4-(2-fluoro-4-formylphenoxy)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4-difluorobenzaldehyde and 2-fluoro-4-hydroxybenzonitrile.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 2-fluoro-4-hydroxybenzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
product | 2-fluoro-4-(2-fluoro-4-formylphenoxy)benzonitrile | FC1=C(C#N)C=CC(=C1)OC1=C(C=C(C=C1)C=O)F | C14H7F2NO2
